US08614220B2
1-(2-Hydroxy-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (A51B5C1Z)
A suspension of potassium 1-(2-hydroxy-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (1.54 g, 2.69 mmol) in anhydrous DMA (40 mL) was treated with N-ethyl-N′,N′-diisopropyl carbodiimide hydrochloride (EDCI) (1.03 g, 5.38 mmol) and with ammonium 1H-1,2,3-benzotriazol-1-ate (0.819 g, 5.38 mmol). The reaction was stirred at room temperature overnight. The reaction was diluted with water and the resulting precipitate was collected by filtration to afford the title compound (1.32 g, 88% yield).

reactant | potassium 1-(2-hydroxy-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 2.69 mmol, 1.54 g | OCCN1N=C(C=2CCC=3C=NC(=NC3C21)NC2=C(C=CC(=C2)N2CCN(CC2)C)OC(F)(F)F)C(=O)[O-].[K+]
reactant | ammonium 1H-1,2,3-benzotriazol-1-ate | 5.38 mmol, 0.819 g | N1(N=NC2=C1C=CC=C2)C(=O)[O-].[NH4+]
solvent | DMA | 40 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 1-(2-Hydroxy-ethyl)-8-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 1.32 g, 88% yield | OCCN1N=C(C=2CCC=3C=NC(=NC3C21)NC2=C(C=CC(=C2)N2CCN(CC2)C)OC(F)(F)F)C(=O)N | C24H27F3N8O3
